US08221905B2
The 300 mL round bottom flask, equipped with magnetic stirrer and refluxed condenser, was charged with 5-chloro-2-methoxyphenylboronic acid (5.00 g, 33 mmol), 2-amino-3-bromopyridine (5.70 g, 33 mmol), Pd2(dba)3 (604 mg, 2 mol %), 2-dicylohexylphosphino-2′,6′-dimethoxybiphenyl (542 mg, 4 mol %), potassium phosphate tribasic monohydrate (22.8 mg, 3 eq) and 100 mL of toluene. The flask was filled with nitrogen, and the reaction mixture was heated to reflux and stirred under nitrogen atmosphere for 24 hours. Then reaction was cooled down to room temperature, filtered through silica plug and evaporated. The residue was subjected to column chromatography on silica gel, eluent hexane/ethyl acetate mixture 1:1, providing 5.0 g of 3-(5-chloro-2-methoxyphenyl)pyridin-2-amine as yellow solid. The structure was confirmed by NMR and MS spectroscopy.

reactant | 5-chloro-2-methoxyphenylboronic acid | 33 mmol, 5.00 g | ClC=1C=CC(=C(C1)B(O)O)OC | C7H8BClO3
reactant | 2-amino-3-bromopyridine | 33 mmol, 5.70 g | NC1=NC=CC=C1Br | C5H5BrN2
catalyst | Pd2(dba)3 | 604 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2-dicylohexylphosphino-2′,6′-dimethoxybiphenyl | 542 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
catalyst | potassium phosphate tribasic monohydrate | 22.8 mg, 3 eq | O.[O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(5-chloro-2-methoxyphenyl)pyridin-2-amine | 5.0 g | ClC=1C=CC(=C(C1)C=1C(=NC=CC1)N)OC | C12H11ClN2O
